US09238644B2
(d) 1-(2-Ethynylphenyl)cyclopropanecarboxamide (K6)
A cooled (5° C. water/ice bath) solution of 1-(2-((trimethylsilyl)ethynyl)phenyl)cyclopropanecarboxamide (I12) (1.09 g, 4.23 mmol) in DCM (20 mL) containing acetic acid (0.315 mL, 5.50 mmol) was slowly treated with a 1 M solution of TBAF in THF (5.08 mL, 5.08 mmol). The resulting mixture was stirred at room temperature for 2 hours then water (30 mL) was added. The aqueous layer was extracted with DCM (2×15 mL), then the combined organic extracts were washed with water, brine, dried (MgSO4), filtered and evaporated in vacuo to give the title compound as a tan solid (0.780 g, 99%); 1H NMR (300 MHz, CDCl3) δ 7.57 (d, J=6.7 Hz, 1H), 7.31-7.45 (m, 3H), 5.46 (brs, 1H), 5.27 (brs, 1H), 3.38 (s, 1H), 1.75 (dq, J=4.0 Hz, 2H) 1.18 (dq, J=3.7 Hz, 2H). LCMS-B: rt 5.489 min; m/z 186 [M+H]+.

reactant | 1-(2-((trimethylsilyl)ethynyl)phenyl)cyclopropanecarboxamide | 4.23 mmol, 1.09 g | C[Si](C)(C)C#CC1=C(C=CC=C1)C1(CC1)C(=O)N | C15H19NOSi
reactant | acetic acid | 5.50 mmol, 0.315 mL | C(C)(=O)O | C2H4O2
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 5.08 mmol, 5.08 mL | C1CCOC1 | C4H8O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | 1-(2-Ethynylphenyl)cyclopropanecarboxamide | 0.780 g, 99% | C(#C)C1=C(C=CC=C1)C1(CC1)C(=O)N | C12H11NO
